US05721234
5-Acetamido-6-bromo-2-carboxyethyl-4-nitroindane
A mixture of 5-acetamido-6-bromo-2-carboxyethylindane (7 g, 20 mmol) and trifluoroacetic acid (150 mL) was cooled in an ice bath and treated with fuming nitric acid (10 mL). After 2 h at 0° C., the solvent was removed and the residue solidified upon addition of water. The solid was collected by filtration, washed with ether and dried. Crystallization from hot toluene gave the pure product (7 g).

reactant | 5-acetamido-6-bromo-2-carboxyethylindane | 20 mmol, 7 g | C(C)(=O)NC=1C=C2CCC(C2=CC1Br)CCC(=O)O | C14H16BrNO3
reactant | trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
product | 5-Acetamido-6-bromo-2-carboxyethyl-4-nitroindane | 7 g | C(C)(=O)NC=1C(=C2CCC(C2=CC1Br)CCC(=O)O)[N+](=O)[O-] | C14H15BrN2O5
